US06869947B2
Step A: 7-(2-Bromobenzyl)-8-chloro-1,3-dimethyl-3,7-dihydropurine-2,6-dione (20A)
From 8-Chorotheophylline (10 g, 46.6 mol) and 2-bromobenzyl bromide (12.2 g, 48.93 mol).

reactant | 8-Chorotheophylline | 46.6 mol, 10 g | ClC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C7H7ClN4O2
reactant | 2-bromobenzyl bromide | 48.93 mol, 12.2 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
product | 7-(2-Bromobenzyl)-8-chloro-1,3-dimethyl-3,7-dihydropurine-2,6-dione | BrC1=C(CN2C(=NC=3N(C(N(C(C23)=O)C)=O)C)Cl)C=CC=C1 | C14H12BrClN4O2
